2176-08-31 16:05:00 Physician Resident Progress Note
Chief Complaint: Hypotension
   24 Hour Events:
   HPI: This is a 64 year-old male with a history of colon ca s/p R
   colectomy ([**2174**]) c/b persistent drain output from [**Last Name (un) **]-abscess fistula,
   s/p Ex-lap, fistula takedown, resection of anastamosis on [**2176-8-30**]
   presents from surgical floor for persistent hypotension. Patient
   underwent planned procedure on [**2176-8-30**] that was without complication.
   Patient received minimal intra-operative fluid [**1-20**] planned bowel
   reanastamosis and desire to avoid bowel intraoperatively. Post-op
   patient received 4L LR, 2u PRBCs and remained hypotensive on the floor
   overnight.
   .
   On the am of transfer, patient was continuing to be hypotensive despite
   IVF resuscitation and was transferred to the [**Hospital Unit Name 1**] for closer
   monitoring. HCT stable.  Pt was put on cefazolin and flagyl.
   .
   On arrival to the floor, pt persistently hypotensive with SBP in 80s,
   tachycardiac to 110-120.  WBC count 13.1 with a left shift.  EKG showed
   sinus tachycardia but otherwise unchanged from baseline.
   .
   ROS: + nausea, [**1-28**] RLQ pain. The patient denies any fevers, chills,
   vomiting, abdominal pain, chest pain, shortness of breath, orthopnea,
   PND, lower extremity oedema, cough, urinary frequency, urgency,
   dysuria, lightheadedness, focal weakness, vision changes, headache,
   rash or skin changes.
   History obtained from Patient, Transferring resident
   Allergies:
   History obtained from Patient, Transferring residentAspirin
   GI bleeding
   s/
   Morphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2176-8-31**] 11:47 AM
   Piperacillin/Tazobactam (Zosyn) - [**2176-8-31**] 01:25 PM
   Vancomycin - [**2176-8-31**] 02:31 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Gastric Ca
   Adenocarcinoma of the colon, appendix and Gall bladder now s/p 20 of 28
   radiation cycles, right sided fistula after right colectomy and XRT
   HTN
   Gout
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, Nausea, No(t) Emesis, No(t) Diarrhea,
   No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Pain: [**2-20**] Mild
   Pain location: Abdomen
   Flowsheet Data as of  [**2176-8-31**] 04:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 109 (109 - 123) bpm
   BP: 82/61(70) {82/61(70) - 98/63(74)} mmHg
   RR: 12 (12 - 23) insp/[**Year (4 digits) 83**]
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             4,812 mL
   PO:
             TF:
   IVF:
   4,812 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    155 mL
   Urine:
   155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  4,657 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: No(t) PERRL, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : )
   Abdominal: No(t) Non-tender, No(t) Bowel sounds present, Tender: ,
   midline incision with wet packing, pooling seroma, ostomy bag in plsce
   with mnimal output, erythema around former fistula site
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   120 K/uL
   9.8 g/dL
   104 mg/dL
   1.3 mg/dL
   24 mEq/L
   4.4 mEq/L
   17 mg/dL
   108 mEq/L
   139 mEq/L
   30.9 %
   13.1 K/uL
        [image002.jpg]
                             [**2176-8-31**]  11:31 AM
                             [**2176-8-31**]  12:35 PM
   WBC
   13.1
   Hct
   30.9
   Plt
   120
   Cr
   1.3
   Glucose
   104
   Other labs: PT / PTT / INR:18.1/38.2/1.7, Differential-Neuts:88.0 %,
   Lymph:7.0 %, Mono:4.6 %, Eos:0.4 %, Lactic Acid:2.1 mmol/L
   Assessment and Plan
   This is a 64 year-old male with a history of colon ca s/p R colectomy
   ([**2174**]) c/b persistent drain output from [**Last Name (un) **]-abscess fistula, s/p
   Ex-lap, fistula takedown, resection of anastamosis [**2176-8-30**]
   .
   Plan:
   # Post-operative Hypotension- Patient tachycardic and hypotense without
   recent fever but rising WBC count concerning for septic vs. hypovolemic
   shock in the setting of post-operative course. If septic etiology,
   likely source is abdomen, possibly anastamotic leak vs. surgical site
   infection, vs. line infection. Hematocrit stable overnight ruling out
   hemorrhagic shock.
   - trend serial lactates
   - IV fluids to goal UOP 30 cc/hr, SBP >90, MAP >65
   - Transfuse for Hct > 30
   - Broad spectrum antiobiotics, switch cefazolin/flagyl to vanc/zosyn
   - Follow-up blood, urine cultures
   - Trend WBC count, fever curve.
   - surgery to relook at anastamosis
   - place A-line
   .
   # Colon CA s/p colectomy and fistula takedown: POD#1
   - dilaudid PCA for post-operative pain control
   - keep NPO until bowel functioning
   - consider repeat imaging for anastamotic leak in setting of rising WBC
   and hypotension
   .
   # FEN: NPO, monitor and replete lytes
   .
   # Access: right Port, PIV x1 16g
   .
   # PPx: hep sc BID, PPI
   .
   # Code: FUll
   .
   # Dispo:  ICU for now, return to surgery once hemodynamically stable
   .
   # Comm:  Surgical [**Name2 (NI) 1630**], wife
   ICU [**Name (NI) 81**]
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2176-8-31**] 11:54 AM
   16 Gauge - [**2176-8-31**] 11:54 AM
   Arterial Line - [**2176-8-31**] 02:22 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU
   ------ Protected Section [**Hospital 106**]
   MEDICAL ATTENDING ADMIT ADDENDUM
   I examined the patient and reiviewed his history and pertinent labs.  I
   was physically present with the MICU team during the key portions of
   the services provided. I agree with the note above, including the
   assessment and plan. I would emphasize and add the following:
   The patient has expected post op pain,  clearly improved with PCA, and
   has little other complaints.  His normal SBP is 110.
   On exam: His SBP is in the 80s and HR in the 120s, though he looks very
   comfortable other than his abdomen. Lungs clear.  Cor- RRR but tachy;
   Ext- no edema; Neuro
 a&o GU- scant urine in Foley; Abd
 as above
   thin brownish fluid saturating the gauze dressing of one of his wounds
   Lab: as above.  CxR
 clear except for +/- LLL atelectasis
   \
   Problems:
   1.       S/p ex lap and take down of entero cutaneous fistulae with
   ileostomy
   2.       Post op hypotension, tachycardia, and oliguria
 abdominal
   sepsis vs volume depletion from gut third space losses vs both
   3.       Hx of multiple cancers ( GB, appendix, gastric, colon)
   Plan:
   1.       Aggressive IV fluids, aiming for UO> 30cc/hr and SBP>90
   2.       Agree with A line
   3.       Agree with change in antibiotics to Zosyn and Vanco
   4.       [**Month (only) 51**] need central line , but for now his SCL portacath and 16 g
   PIV are sufficing for IVF
   5.       Appreciate surgery following his wound closely, esp what they
   believe is a seroma draining
   6.       Recheck CXR if any  increased SOB
   7.       Consider serum cortisol if BP doesn
t respond to 4-6 L of
   fluids
   Patient is critcally ill.    Total Time spent = 50 [**First Name8 (NamePattern2) 83**]
   [**First Name8 (NamePattern2) 1620**] [**Last Name (NamePattern1) 1621**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2176-8-31**] 20:01 ------

2176-09-01 07:15:00 Physician Resident Progress Note
Chief Complaint: Hypotension, increased WBC after fistula resection
   24 Hour Events:
 PICC LINE - START [**2176-8-31**] 11:54 AM
 ARTERIAL LINE - START [**2176-8-31**] 02:22 PM
 PICC LINE - STOP [**2176-9-1**] 12:11 AM
 INDWELLING PORT (PORTACATH) - START [**2176-9-1**] 12:18 AM
   Multiple fluid boluses for MAP >60; pressors required; He was given
   albumin as well.
   Allergies:
   Aspirin
   GI bleeding
   s/
   Morphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2176-8-31**] 11:47 AM
   Piperacillin/Tazobactam (Zosyn) - [**2176-9-1**] 12:00 AM
   Vancomycin - [**2176-9-1**] 02:07 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2176-8-31**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-9-1**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.2
C (97.2
   HR: 97 (97 - 123) bpm
   BP: 106/75(88) {69/49(57) - 106/75(203)} mmHg
   RR: 9 (9 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  7,377 mL
                                                                  1,939 mL
   PO:
           TF:
   IVF:
                                                                  7,377 mL
                                                                  1,439 mL
   Blood products:
   500 mL
   Total out:
                                                                    350 mL
                                                                    139 mL
   Urine:
                                                                    350 mL
                                                                    139 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,027 mL
                                                                  1,800 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, Anxious
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Distended, Obese, No bowel sounds, very tender, wounds
   look clear
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   111 K/uL
   8.8 g/dL
   156 mg/dL
   1.4 mg/dL
   25 mEq/L
   4.8 mEq/L
   20 mg/dL
   105 mEq/L
   137 mEq/L
   26.4 %
   16.1 K/uL
        [image002.jpg]
                             [**2176-8-31**]  11:31 AM
                             [**2176-8-31**]  12:35 PM
                             [**2176-9-1**]  05:12 AM
   WBC
   13.1
   16.1
   Hct
   30.9
   26.4
   Plt
   120
   111
   Cr
   1.3
   1.4
   Glucose
   104
   156
   Other labs: PT / PTT / INR:19.3/39.8/1.7, Differential-Neuts:89.2 %,
   Lymph:5.4 %, Mono:4.3 %, Eos:0.9 %, Lactic Acid:2.1 mmol/L, Ca++:7.8
   mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   This is a 64 year-old male with a history of colon ca s/p R colectomy
   ([**2174**]) c/b persistent drain output from [**Last Name (un) **]-abscess fistula, s/p
   Ex-lap, fistula takedown, resection of anastamosis [**2176-8-30**]
   .
   Plan:
   # Post-operative Hypotension- Patient with increasing WBC, acute renal
   failure and pressor requirement s/p major GI surgery. Concern for SIRS
   after surgery and/or sepsis. Patient with very tender abdomen, that has
   not been worsening, so anastomotic leak is not that likely. Wounds look
   clear. Patient seems euvolemic for now and with low O2 requirements,
   currently on antibiotics.
   -          Continue fluid boluses PRN
   -          Continue Vanc/Zosyn (Day 2)
   -          Follow up blood cultures
   -          Follow up temp curve
   -          Follow up WBC
   -          Touch-base with surgery
   -          Transuse 1 RBC unit
   -          PM lytes and PM HCT
   #ARF: Patient with new acute renal failure (creatinine increase >0.5).
   Most likely due to hypotension during surgery. Patient most likely on
   oliguic ATN, but volume needs to be monitored as well as BP to make
   sure perfusion is adequate.
   -          F/u urine lytes
   -          F/u UA looking for granular casts
   -          Trend creatinine
   -          F/u UOP
   .
   # Colon CA s/p colectomy and fistula takedown: POD#1
   - dilaudid PCA for post-operative pain control. Increase pain control.
   - keep NPO until bowel functioning
   - consider repeat imaging for anastamotic leak in setting of rising WBC
   and hypotension
   .
   # FEN: NPO until bowels start to move, monitor and replete lytes
   .
   # Access: right Port, PIV x1 16g, 20g
   .
   # PPx: hep sc BID, PPI, pneumoboots.
   .
   # Code: FUll
   .
   # Dispo:  ICU for now, return to surgery once hemodynamically stable
   .
   # Comm:  Surgical [**Name2 (NI) 1630**], wife
   ICU [**Name (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2176-8-31**] 11:54 AM
   Arterial Line - [**2176-8-31**] 02:22 PM
   20 Gauge - [**2176-9-1**] 12:00 AM
   Indwelling Port (PortaCath) - [**2176-9-1**] 12:18 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I have examined the patient and reviewed his history and relevant labs.
   I was physically present with the MICU team for the key portions of the
   services provided and I agree with the above note, including its
   assessment and plan. I would add and emphasize the following:
   Over the past 24 hrs the pt required levophed as 6 L of fluid did not
   result in sustained improvement in U.O or BP.  On Levophed these both
   improved.  Patient still has abd pain, but no other complaints.
   Remains on Zosyn and Vanco
   On exam: afeb, BP= 106/75,  Sat=96% on 2L  I/O = + 6L over 24 hrs.  U.O
   now 40cc/hr
   Abd dressings new and in tact.  Wounds look good as per surgery. Mod
   abd tenderness.  Lungs clear, except for bronchial bs at Right base .
   Ext
 puffy
   Lab:  Hct down to 26  Bld Cx neg so far   Creat incrased from .8 to 1.4
   Imp:
   1.       Post enterocutaneous fistula takedown hypotension, likely
   either to third spacing into abdomen, some bleeding into abdomen,
   and/or abdominal sepsis
   2.       Renal insuff due to decreased BP
   3.       Anemia, in part due to dilution
   4.       Post op pain
   Plan:
   1.       Slow IV
s but still make I/O +2L today
   2.       Continue current abx
   3.       Transfuse
   4.       check CXR
   5.       Wean Levophed
   6.       Increase PCA
   7.       Follow hct, creat
   8.       We appreciate surgeons
 close follow up of the patient
   Patient critically ill.  Time spent= 30min
   [**First Name8 (NamePattern2) 1620**] [**Last Name (NamePattern1) 1621**], [**MD Number(1) 1623**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2176-9-1**] 17:09 ------

2176-09-02 06:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Pressors off since yesterday  with sbp 130s
   -1U PRBC with hct to 26 and stable this morning
   -wound culture grew out [** 1685**] today
   Allergies:
   Aspirin
   GI bleeding
   s/
   Morphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2176-8-31**] 11:47 AM
   Piperacillin/Tazobactam (Zosyn) - [**2176-9-2**] 12:15 AM
   Vancomycin - [**2176-9-2**] 02:07 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2176-9-1**] 08:46 PM
   Pantoprazole (Protonix) - [**2176-9-1**] 08:47 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  no cp, sob. Not passing gas. Pain [**2177-12-20**] w/pca use.
   Flowsheet Data as of  [**2176-9-2**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 95 (94 - 103) bpm
   BP: 84/64(72) {84/53(68) - 124/98(191)} mmHg
   RR: 11 (7 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,540 mL
                                                                  1,352 mL
   PO:
             TF:
   IVF:
                                                                  4,665 mL
                                                                  1,352 mL
   Blood products:
                                                                    875 mL
   Total out:
                                                                    989 mL
                                                                    420 mL
   Urine:
                                                                    989 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,551 mL
                                                                    932 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   HEENT: NCAT MMM anicteric
   CV: RRR S1S2
   PULM: crackles at bases otherwise clear
   ABD: distended and tender to deep palpation but soft, +bs throughout,
   dressings c/d/i
   EXT: WWP
   Labs / Radiology
   82 K/uL
   8.6 g/dL
   92 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.1 mEq/L
   16 mg/dL
   106 mEq/L
   135 mEq/L
   26.1 %
   11.0 K/uL
        [image002.jpg]
                             [**2176-8-31**]  11:31 AM
                             [**2176-8-31**]  12:35 PM
                             [**2176-9-1**]  05:12 AM
                             [**2176-9-1**]  04:50 PM
                             [**2176-9-2**]  03:37 AM
   WBC
   13.1
   16.1
   12.8
   11.0
   Hct
   30.9
   26.4
   26.4
   26.1
   Plt
   120
   111
   81
   82
   Cr
   1.3
   1.4
   1.0
   0.8
   Glucose
   104
   156
   119
   92
   Other labs: PT / PTT / INR:17.8/39.8/1.6, Differential-Neuts:89.2 %,
   Lymph:5.4 %, Mono:4.3 %, Eos:0.9 %, Lactic Acid:2.1 mmol/L, LDH:158
   IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   This is a 64 year-old male with a history of colon ca s/p R colectomy
   ([**2174**]) c/b persistent drain output from [**Last Name (un) **]-abscess fistula, s/p
   Ex-lap, fistula takedown, resection of anastamosis [**2176-8-30**] . POD #3.
   .
   Plan:
   # Post-operative Hypotension- Patient with increasing WBC, acute renal
   failure and pressor requirement s/p GI surgery. Concern for sepsis
   post-procedure. Patients abdominal exam has improved, wounds appear
   clean and WBC is trending down. He has also been afebrile. Abdominal
   wound cx grew [**Last Name (LF) 1685**], [**First Name3 (LF) **] add on linezolid and contact ID for approval.
   -          Continue fluid boluses PRN for hypotension.
   -          d/c vancomycin, add linezolid
   -          Follow up blood cultures
   -          Monitor fever curve, WBC and hct.
   -          Follow surgery recs, likely transfer to floor today
   #ARF: Most likely due to hypotension during surgery. His creatinine has
   improved with fluid rescusitation, now close to or at baseline. Patient
   most likely in oliguic ATN (given FeNa >0.3 showing prerenal etiology),
   but volume needs to be monitored as well as BP to make sure perfusion
   is adequate. Continues to have borderline UOP.
   -          Monitor BUN, Cr and UOP
   -          Bolus prn to maintain UOP>30cc/hr
   .
   # Colon CA s/p colectomy and fistula takedown: POD#3. Will discuss with
   surgery If patient is stable enough to transfer to floor today.
   - dilaudid PCA for post-operative pain control.
   - keep NPO until bowel functioning
   - WBC and fever curve trend
   .
   # FEN: NPO until bowels start to move, monitor and replete lytes
   .
   # Access: right Port, PIV x1 16g, 20g
   .
   # PPx: hep sc BID, PPI, pneumoboots, IS at bedside
   .
   # Code: FULL
   .
   # Dispo:  Likely transfer to surgery today
   .
   # Comm:  Surgical [**Name2 (NI) 1630**], wife
   ICU [**Name (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2176-8-31**] 02:22 PM
   20 Gauge - [**2176-9-1**] 12:00 AM
   Indwelling Port (PortaCath) - [**2176-9-1**] 12:18 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2176-09-02 11:30:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient with pressors D/C'd for 24 hours
   Allergies:
   Aspirin
   GI bleeding
   s/
   Morphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2176-8-31**] 11:47 AM
   Piperacillin/Tazobactam (Zosyn) - [**2176-9-2**] 08:30 AM
   Vancomycin - [**2176-9-2**] 10:45 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2176-9-1**] 08:47 PM
   Heparin Sodium (Prophylaxis) - [**2176-9-2**] 09:19 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2176-9-2**] 11:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.5
C (97.7
   HR: 96 (94 - 103) bpm
   BP: 121/69(88) {84/53(68) - 131/98(102)} mmHg
   RR: 11 (7 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  5,540 mL
                                                                  2,574 mL
   PO:
             TF:
   IVF:
                                                                  4,665 mL
                                                                  2,574 mL
   Blood products:
                                                                    875 mL
   Total out:
                                                                    989 mL
                                                                    682 mL
   Urine:
                                                                    989 mL
                                                                    682 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,551 mL
                                                                  1,892 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, tender in mid region but able to tolerate some
   palpation with PCA administered
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   82 K/uL
   92 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.1 mEq/L
   16 mg/dL
   106 mEq/L
   135 mEq/L
   26.1 %
   11.0 K/uL
        [image002.jpg]
                             [**2176-8-31**]  11:31 AM
                             [**2176-8-31**]  12:35 PM
                             [**2176-9-1**]  05:12 AM
                             [**2176-9-1**]  04:50 PM
                             [**2176-9-2**]  03:37 AM
   WBC
   13.1
   16.1
   12.8
   11.0
   Hct
   30.9
   26.4
   26.4
   26.1
   Plt
   120
   111
   81
   82
   Cr
   1.3
   1.4
   1.0
   0.8
   Glucose
   104
   156
   119
   92
   Other labs: PT / PTT / INR:17.8/39.8/1.6, Differential-Neuts:89.2 %,
   Lymph:5.4 %, Mono:4.3 %, Eos:0.9 %, Lactic Acid:2.1 mmol/L, LDH:158
   IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Imaging: CXR--Decreased lung volumes, bilateral effusions but different
   technique from the past studies and suggesting no change
   Assessment and Plan
   64 yo male s/p exp lab on [**8-30**] for takedown of fistula with post
   operative hypotension complicating course.  Now with adequate volume
   support he has improved hemodynamics and has been able to maintain
   stability off pressors.
   Sepsis-[**Month (only) 51**] well have been transient insult peri-operatively but has not
   evolved sustained SIRS.  In discussion with surgial team plan is
   currently to move patient to surgical floor.
   -LR to continue at 150cc/hr
   -vanco/Zosyn to continue
   -Will have to discuss change/addition of Linezolid for prelim findings
   of VRE on culture
the source of the culture needs to be defined.
   Acute Renal Failure-
   -This has improved and is likely releate to pre-renal insult
   -F/U urine output
   Colon Cancer-
   -Is post operative from above
   -With pain control will use PCA
   -F/U per primary team
   gg
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2176-8-31**] 02:22 PM
   20 Gauge - [**2176-9-1**] 12:00 AM
   Indwelling Port (PortaCath) - [**2176-9-1**] 12:18 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes